US05864043
4'-[(2-(3-methylbutyl)-5-hydroxy-6-methoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
3 g of aluminium trichloride are added to a suspension of 600 mg (1.3 mmol) of 4'-[(2-(3-methylbutyl)-5,6-dimethoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid in 50 ml of dry dichloromethane and the mixture is heated under reflux for 15 minutes. The solvent is then distilled off, the residue is filtered off under suction, washed using 30 ml of water and dried. 360 mg (62% of theoretical) of a mixture of the isomeric products is obtained after chromatographing over silica gel (eluting agent: dichloromethane/ethanol=9:1).

reactant | aluminium trichloride | 3 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 4'-[(2-(3-methylbutyl)-5,6-dimethoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | 1.3 mmol, 600 mg | CC(CCC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C(=C2)OC)OC)C | C28H30N2O4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4'-[(2-(3-methylbutyl)-5-hydroxy-6-methoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | CC(CCC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C(=C2)O)OC)C | C27H28N2O4
